US05723450
4-[(4-Hydroxy-4-n-octyl)cyclohexylamino]-3-methoxy-2-methylpyridine
The Grignard solution is prepared from 0.73 g of magnesium and 6.0 g of octyl bromide in 50 ml of absolute THF. 2.8 g of 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine in 20 ml of THF are added dropwise to the solution. After 2 hours the mixture is acidified with 2N HCl. The THF is then distilled off in vacuo at room temperature and the product is extracted from the solution which is rendered alkaline with methylene chloride. Further working up takes place as in the previous working procedure.

reactant | magnesium | 0.73 g | [Mg] | Mg
reactant | octyl bromide | 6.0 g | C(CCCCCCC)Br | C8H17Br
reactant | 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine | 2.8 g | O=C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | C13H18N2O2
reactant | HCl | 2N | Cl | ClH
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-[(4-Hydroxy-4-n-octyl)cyclohexylamino]-3-methoxy-2-methylpyridine | OC(CCC)(CCCC)N(C1=C(C(=NC=C1)C)OC)C1CCCCC1 | C21H36N2O2
